US09284263B1
To the crude acid (R)-2-(Isoindolin-2-yl)-3-methoxypropanoic acid (FIG. 2, No. 5)(1.25 g, 5 mmol) in dry THF was added N-methylmorpholine (0.66 mL, 6.0 mmol) at −78° C. under an argon atmosphere. After 5 min, isobutyl chloroformate (0.78 mL, 6.0 mmol) was added and stirred for another 5 min. To this reaction mixture benzylamine (0.65 mL, 6.0 mmol) was added at −78° C. after which the reaction mixture was stirred at room temperature for 1 h. After completion of the reaction, the reaction mixture was filtered through a celite pad, washed with ethyl acetate, and dried over anhydrous MgSO4. The solvent was removed in vacuo and the crude product was subjected to silica gel column chromatography (Ethyl acetate/Hexane, 4:6) to yield 1.48 g, 88% yield of (R)—N—Benzyl-2-(isoindolin-2-yl)-3-methoxypropanamide (FIG. 2, No. 6) as a crystalline solid. [Rf=0.26, ethyl acetate/hexane (4:6)]; [α]D25 +81.8 (c 1, CH2Cl2); IR (CH2Cl2) v: 1718, 1685, 1535, and 1387 cm−1; 1H NMR (400 MHz, CDCl3) δ:3.38 (bs, 3H), 3.75 (m, 1H), 4.34 (t, J=9.64 Hz, 1H), 4.46 (m, 2H), 5.0 (m, 1H), 7.1 (bs, 1H), 7.21-7.33 (m, 5H), 7.7 (dd, J=3.2, 5.48 Hz, 2H), 7.83 (dd, J=3.2, 5.48 Hz, 2H); 13C NMR (100 MHz, CDCl3) δ: 29.6, 43.5, 51.7, 58.9, 70.1, 123.5, 127.1, 127.3, 127.4, 128.4, 128.6, 131.8, 134.1, 137.9, 167.3, 167.9; HRMS (ESI-TOF) m/z calcd for C19H18N2O4Na [M+Na+] 361.120. Found 361.116.

reactant | (R)-2-(Isoindolin-2-yl)-3-methoxypropanoic acid | C1N(CC2=CC=CC=C12)[C@@H](C(=O)O)COC | C12H15NO3
reactant | N-methylmorpholine | 6.0 mmol, 0.66 mL | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 6.0 mmol, 0.78 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | benzylamine | 6.0 mmol, 0.65 mL | C(C1=CC=CC=C1)N | C7H9N
solvent | THF | C1CCOC1 | C4H8O
product | (R)—N—Benzyl-2-(isoindolin-2-yl)-3-methoxypropanamide | 1.48 g, 88% yield | C(C1=CC=CC=C1)NC([C@@H](COC)N1CC2=CC=CC=C2C1)=O | C19H22N2O2
